US09315458B2
F) methyl 4-cyano-2-hydroxy-3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate
To a solution of methyl 5-bromo-4-cyano-2-hydroxy-3-methylbenzoate (2.00 g) in toluene (30.0 mL) were added bis(pinacolato)diboron (2.82 g), potassium acetate (2.18 g) and trans-dichlorobis(triphenylphosphine)palladium(II) (0.26 g), and the mixture was stirred at 110° C. for 16 hr under argon atmosphere. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by flash silica gel column chromatography (ethyl acetate/petroleum ether) to give the title compound (2.50 g: containing bis(pinacolato)diboron).

reactant | methyl 5-bromo-4-cyano-2-hydroxy-3-methylbenzoate | 2.00 g | BrC=1C(=C(C(=C(C(=O)OC)C1)O)C)C#N | C10H8BrNO3
reactant | bis(pinacolato)diboron | 2.82 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 2.18 g | C(C)(=O)[O-].[K+]
reactant | water | O | H2O
solvent | toluene | 30.0 mL | C1(=CC=CC=C1)C | C7H8
catalyst | trans-dichlorobis(triphenylphosphine)palladium(II) | 0.26 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | methyl 4-cyano-2-hydroxy-3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 2.50 g | C(#N)C1=C(C(=C(C(=O)OC)C=C1B1OC(C(O1)(C)C)(C)C)O)C | C16H20BNO5
